US07897595B2
A mixture of 2-(allyloxy)-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (300 mg, 682 μmol), Pd(PPh3)2Cl2 (120 mg, 170 μmol), NaOAc (168 mg, 2.04 mmol) and DMA (20 ml) was heated for 30 min at 125 ° C. The reaction mixture was concentrated in vacuo and purified by column chromatography to give 68.0 mg (32%) of 3,5-dimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H -furo[3′,2′:5,6]pyrido[2,3-d]azepine. H-NMR (CDCl3) δ 7.68 (2× s, 1H), 7.46 (2× s, 1H), 4.25-3.25 (m, 7H), 2.24 (2× d, 3H), 1.44 (2×d, 3H) ppm. A mixture of 3,5-dimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-furo[3′,2′:5,6]pyrido[2,3-d]azepine (62.0 mg, 199 μmol), K2CO3 (80 mg) and MeOH (6 ml) was heated for 1 h at 60° C. The reaction mixture was concentrated in vacuo and purified by column chromatography to give 19.6 mg (46%) of 3,5-dimethyl-6,7,8,9-tetrahydro-5H-furo[3′,2′:5,6]pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.69 (s, 1H), 7.47 (d, 1H), 3.63-3.33 (m, 5H), 3.06 (t, 1H), 2.87 (t, 1H), 2.25 (d, 3H), 1.54 (d, 3H) ppm.

reactant | 3,5-dimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-furo[3′,2′:5,6]pyrido[2,3-d]azepine | 199 μmol, 62.0 mg | CC1=COC=2C1=CC1=C(CCN(CC1C)C(C(F)(F)F)=O)N2 | C15H15F3N2O2
reactant | K2CO3 | 80 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 6 ml | CO | CH4O
product | 3,5-dimethyl-6,7,8,9-tetrahydro-5H-furo[3′,2′:5,6]pyrido[2,3-d]azepine | 19.6 mg, 46% | CC1=COC=2C1=CC1=C(CCNCC1C)N2 | C13H16N2O
